US07091220B2
{[1-(4-Methoxybenzyl)-1H-indol-3-yl]-phenylmethyl}-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 and 5 from 1H-indole, benzylidene-dimethyl-ammonium chloride and 4-methoxybenzyl chloride

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | {[1-(4-Methoxybenzyl)-1H-indol-3-yl]-phenylmethyl}-dimethylamine | COC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C2=CC=CC=C2)N(C)C)C=C1 | C25H26N2O
